US04752646
A mixture of 1.29 g (3.41 mmoles) of rac-3,4-dihydro-2,5,7,8-tetramethyl-6-methoxy-2H-1-benzopyran-2-ylpropanedioic acid diethyl ester, 1.68 g of potassium hydroxide, and 75 ml of 9:1 parts by volume ethylene glycol-water mixture was stirred and refluxed for 6 hours. The resulting mixture was poured on ice and extracted with ether (the ether extract was discarded). The aqueous solution was acidified with 3N HCl and the preciptated acid was extracted 3 times with ether. The combined ether extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. Purification of the residue by preparative thick layer chromatography gave 0.72 g (75.9%) of rac.-3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetic acid, as a colorless solid, mp 96°-98° C. Demethylation using the procedure of example 14 gives rac.-3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetic acid which can be converted to alpha-tocopherol as described in Helv. Chim. Acta. 59, 290 (1976).

reactant | rac-3,4-dihydro-2,5,7,8-tetramethyl-6-methoxy-2H-1-benzopyran-2-ylpropanedioic acid diethyl ester | 3.41 mmoles, 1.29 g | C(C)OC(C(C(=O)OCC)C1(OC2=C(CC1)C(=C(C(=C2C)C)OC)C)C)=O | C21H30O6
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | ethylene glycol water | C(CO)O.O
product | rac.-3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetic acid | 0.72 g, 75.9% | COC=1C(=C(C2=C(CCC(O2)(CC(=O)O)C)C1C)C)C | C16H22O4
